US07253286B2
N-(4-((6-Cyano-7-hydroxy-4-quinolyl)oxy)phenyl)-N′-(3-(methylsulfonyl)phenyl)urea
After dissolving N-(4-(7-(benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea (1.43 g, 2.5 mmol) in trifluoroacetic acid (10 ml) and thioanisole (1.17 ml, 10 mmol) under a nitrogen atmosphere, the solution was stirred at 65° C. for 19 hours. The reaction solution was concentrated under reduced pressure, and after adding 5% aqueous sodium bicarbonate (30 ml) and ethyl acetate (50 ml) to the obtained residue and stirring, the precipitated crystals were filtered out, washed with water and ethyl acetate and dried under reduced pressure. The organic layer of the filtrate was separated, washed with saturated brine and dried over anhydrous sodium sulfate, and then concentrated under reduced pressure to obtain a yellow crystalline residue. This was combined with the previous crystals, suspended in ethyl acetate (40 ml) and subjected to sonication, and then the crystals were filtered out, washed with diethyl ether and dried at 60° C. to obtain the title compound (862 mg, 1.8 mmol, 72.7%) as yellow crystals.

reactant | N-(4-(7-(benzyloxy)-6-cyano-4-quinolyl)oxyphenyl)-N′-(3-(methylsulfonyl)phenyl)urea | 2.5 mmol, 1.43 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C)C#N | C31H24N4O5S
reactant | thioanisole | 10 mmol, 1.17 ml | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-((6-Cyano-7-hydroxy-4-quinolyl)oxy)phenyl)-N′-(3-(methylsulfonyl)phenyl)urea | 1.8 mmol, 862 mg, 72.7% | C(#N)C=1C=C2C(=CC=NC2=CC1O)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)S(=O)(=O)C | C24H18N4O5S
